US04115571
Reaction of 4-chlorophenoxazine with 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride according to the procedure of Example 7 affords 4-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE HYDROCHLORIDE, m.p. 278°-282° C. (dec.), from ethanol-ether.

reactant | 4-chlorophenoxazine | ClC1=CC=CC=2NC3=CC=CC=C3OC12 | C12H8ClNO
reactant | 2-chloro-(1-pyrrolin-2-yl)pyrroline hydrochloride | Cl.ClC=1N(CCC1)C1=NCCC1
product | 4-CHLORO-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE HYDROCHLORIDE | Cl.ClC1=CC=CC=2N(C3=CC=CC=C3OC12)C=1N(CCC1)C1=NCCC1 | InChI=1S/C20H18ClN3O.ClH/c21-14-6-3-8-16-20(14)25-17-9-2-1-7-15(17)24(16)19-11-5-13-23(19)18-10-4-12-22-18;/h1-3,6-9,11H,4-5,10,12-13H2;1H
